US07622583B2
A mixture of 3-(4-chloro-3-trifluoromethyl-benzenesulfonylamino)-pyrazine-2-carboxylic acid methyl ester (60 mg), 3 mL of 2N NaOH and 3 mL of methanol was stirred at room temperature overnight. To the reaction mixture was added slowly 2M HCl until white solid precipitated. Filtration followed by vacuum drying afforded 3-(4-chloro-3-trifluoromethyl-benzenesulfonylamino)-pyrazine-2-carboxylic acid as a white solid. MS: (M+H)/z=382.0.

reactant | 3-(4-chloro-3-trifluoromethyl-benzenesulfonylamino)-pyrazine-2-carboxylic acid methyl ester | 60 mg | COC(=O)C1=NC=CN=C1NS(=O)(=O)C1=CC(=C(C=C1)Cl)C(F)(F)F | C13H9ClF3N3O4S
reactant | NaOH | 2N, 3 mL | [OH-].[Na+]
reactant | HCl | 2M | Cl | ClH
solvent | methanol | 3 mL | CO | CH4O
product | 3-(4-chloro-3-trifluoromethyl-benzenesulfonylamino)-pyrazine-2-carboxylic acid | ClC1=C(C=C(C=C1)S(=O)(=O)NC=1C(=NC=CN1)C(=O)O)C(F)(F)F | C12H7ClF3N3O4S
